US07754903B2
Synthesis of 1,3-bis(glycidyloxy)adamantane
300 ml of dehydrated tetrahydrofuran containing 16.8 g (0.1 mol) of 1,3-adamantanediol and 5.3 g (0.22 mol) of sodium hydride was stirred in a nitrogen atmosphere at the reflux temperature for 2 hours. Thereto was dropwise added 20.4 g (0.22 mol) of epichlorohydrin, followed by stirring at the reflux temperature for 12 hours. To the reaction mixture was added 200 ml of chloroform. The chloroform layer was washed with water and dried with magnesium sulfate. The dried chloroform layer was subjected to distillation under reduced pressure for solvent removal, to obtain oily matter. It was purified by silica gel column chromatography to obtain 1.79 g (yield: 6.4%) of oily matter.

reactant | tetrahydrofuran | 0.1 mol, 300 ml, 16.8 g | O1CCCC1 | C4H8O
reactant | 1,3-adamantanediol | C12(CC3(CC(CC(C1)C3)C2)O)O | C10H16O2
reactant | sodium hydride | 0.22 mol, 5.3 g | [H-].[Na+]
reactant | epichlorohydrin | 0.22 mol, 20.4 g | C(Cl)C1CO1 | C3H5ClO
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,3-bis(glycidyloxy)adamantane | yield: 6.4% | C(C1CO1)OC12CC3(CC(CC(C1)C3)C2)OCC2CO2 | C16H24O4
